US04053606
To a suspension of 1.0 mole of phosphorous pentoxide in 300 ml. of dry chloroform is added dropwise with stirring a solution of 0.5 mole of N-acryloylalanine ethyl ester. The reaction mixture is heated at gentle reflux for 5 hours and then cooled. To the cooled mixture is added with rapid stirring 750 ml. of 20% aqueous potassium hydroxide. After stirring at room temperature for 1 hour, the chloroform layer is separated and the aqueous layer extracted with 2 × 200 ml. of chloroform. The combined chloroform extracts are washed with water, dried over sodium sulfate, and concentrated in vacuo to yield 5-ethoxy-4-methyl-2-vinyloxazole.

reactant | phosphorous pentoxide | 1.0 mole | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | N-acryloylalanine ethyl ester | 0.5 mole | C(C)OC([C@@H](NC(C=C)=O)C)=O | C8H13NO3
reactant | potassium hydroxide | [OH-].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-ethoxy-4-methyl-2-vinyloxazole | C(C)OC1=C(N=C(O1)C=C)C | C8H11NO2
